US09388176B2
3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-benzylbenzamide
To a mixture of 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid (54 mg, 0.20 mmol), triethylamine (0.084 mL, 0.60 mmol), and catalytic DMAP in 4.5 mL CH2Cl2 at rt was added propylphosphonic anhydride solution (50 wt % in EtOAc, 0.131 mL, 0.22 mmol). After 5 min at rt, benzyl amine (0.023 mL, 0.21 mmol) was added and the reaction stirred at rt for 23 hours. The reaction was partitioned between EtOAc and aqueous Na2CO3 solution, the EtOAc layer washed with aqueous NaHCO3 solution, H2O, brine, dried with anhydrous Na2SO4 and evaporated to a solid. The solid was chromatographed eluting with CHCl3/EtOAc plus 5% MeOH and then triturated with acetone/hexane to give the title compound as a light beige solid (20 mg, 28%). 1H NMR (Acetone-d6) δ: 8.39 (br. s., 1H), 8.12 (s, 1H), 7.58 (br. s., 1H), 7.27-7.38 (m, 5H), 7.16-7.26 (m, 2H), 4.59 (d, J=5.6 Hz, 2H), 4.30 (s, 2H), 3.66 (t, J=5.3 Hz, 2H), 2.82 (t, J=5.3 Hz, 2H).

reactant | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid | 0.20 mmol, 54 mg | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)O)C=CC2 | C14H14N4O2
reactant | triethylamine | 0.60 mmol, 0.084 mL | C(C)N(CC)CC | C6H15N
reactant | propylphosphonic anhydride | 0.22 mmol, 0.131 mL | CCCP(=O)=O | C3H7O2P
reactant | benzyl amine | 0.21 mmol, 0.023 mL | C(C1=CC=CC=C1)N | C7H9N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 4.5 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-benzylbenzamide | 20 mg, 28% | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)NCC1=CC=CC=C1)C=CC2 | C21H21N5O
